US09315506B2
To a suspension of 1 g of 4-amino-2-nitro-benzoic acid in 10 ml of water 0.69 g of aqueous sodium hydroxide solution (32%) were added followed by a solution of 1.2 g di-tert.-butyl-dicarbonate in 12 ml of dioxane. After 29 hours at room temperature additional 0.24 g of di-tert.-butyl-dicarbonate were added and the mixture was stirred for further 2 hours at room temperature. The reaction mixture was washed three times with methyl-tert.-butylether. The aqueous layer was treated with a 10% aqueous solution of citric acid until pH=3 was obtained. The resulting suspension was cooled to 0° C. The product was sucked off, washed with water and dried at 40° C. under vacuum to give 0.72 g of 4-(tert-butoxycarbonylamino)-2-nitrobenzoic acid.

reactant | 4-amino-2-nitro-benzoic acid | 1 g | NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert.-butyl-dicarbonate | 1.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert.-butyl-dicarbonate | 0.24 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 10 ml, 0.69 g | O | H2O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 4-(tert-butoxycarbonylamino)-2-nitrobenzoic acid | 0.72 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C12H14N2O6
